US06982260B1
2-Isopropyl-3-methoxy-cyclohex-3-enone
To a solution of 6-isopropyl-1,5dimethoxy-cyclohexa-1,4-diene (7 g) in methanol (50 mL) was added 2.5% hydrochloric acid (10 mL) drop wise at 0° C. The reaction mixture was stirred for 45 minutes, then diluted with ice-cold water (30 mL). The product was extracted with ether (3×70 mL). The combined organic extracts were washed with brine and dried over anhydrous sodium sulfate. Removal of the solvent in vacuo yielded the title compound as a light yellow oil (6 g, 93%).

reactant | 6-isopropyl-1,5dimethoxy-cyclohexa-1,4-diene | 7 g | C(C)(C)C1C(=CCC=C1OC)OC | C11H18O2
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 2-Isopropyl-3-methoxy-cyclohex-3-enone | 6 g, 93% | C(C)(C)C1C(CCC=C1OC)=O | C10H16O2
